US06265411B1
7-benzyloxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (8.0 g, 22 mmol) was dissolved in TFA (40ml) and the mixture heated at reflux for 3 hours then allowed to cool to ambient temperature and stirred for 18 hours. The TFA was removed by evaporation and the residue resuspended in a mixture of ether and aqueous sodium hydrogen carbonate solution. The solid was collected by filtration, washed with water and ether and dried at 40° C. for 3 hours under high vacuum to give 7-hydroxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (5.42 g, 90%).

reactant | 7-benzyloxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 22 mmol, 8.0 g | C(C1=CC=CC=C1)OC1=CC=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O | C21H22N2O4
solvent | TFA | 40ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 7-hydroxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 5.42 g, 90% | OC1=CC=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O | C14H16N2O4
